US05316755
The above product (31.3 g, 136.7 mmol) was reacted with 4-iodophenol (30.1 g, 136.8 mmol), and potassium carbonate (18.9 g, 136.7 mmol) in DMF (270 ml) at 80° C. as for 2-(4-iodophenoxy)decane. After stirring for 13 hrs, the reaction was analyzed by 1H NMR indicating that the reaction was about 66% complete. The temperature of the oil was increased 84° C. After an additional 34 hrs, 1H NMR spectral analysis indicated that the reaction was complete. The reaction was processed as for 2-(4-iodophenoxy)-decane except at 2 times the volume to give a light yellow oil. This product was further purified by flash column chromatography (silica, hexanes) to give 2-(4-iodophenoxy)-undecane (16.1 g, 31%) as a clear oil.

reactant | 4-iodophenol | 136.8 mmol, 30.1 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | potassium carbonate | 136.7 mmol, 18.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(4-iodophenoxy)decane | IC1=CC=C(OC(C)CCCCCCCC)C=C1 | C16H25IO
solvent | DMF | 270 ml | CN(C)C=O | C3H7NO
product | 2-(4-iodophenoxy)-undecane | 16.1 g, 31% | IC1=CC=C(OC(C)CCCCCCCCC)C=C1 | C17H27IO
